US07238714B2
Step 1. 5-Chloro-2-(3-cyanophenoxy)nicotinic acid
The title compound was prepared according to the procedure described in step 1 of Example 46 from 2,5-dichloronicotinic acid (Syn. Commun. 1989, 19, 553–9) and 3-hydroxybenzonitrile: 1H-NMR (CDCl3) δ 8.40–8.33 (2H, m), 7.74–7.52 (4H, m), a peak of COOH was not observed; MS (ESI) m/z 229 (M−COOH)−.

reactant | 2,5-dichloronicotinic acid | ClC1=C(C(=O)O)C=C(C=N1)Cl | C6H3Cl2NO2
reactant | 3-hydroxybenzonitrile | OC=1C=C(C#N)C=CC1 | C7H5NO
product | 5-Chloro-2-(3-cyanophenoxy)nicotinic acid | ClC=1C=NC(=C(C(=O)O)C1)OC1=CC(=CC=C1)C#N | C13H7ClN2O3
